US05811459
The solution of 4-[3-(2-benzyloxyphenyl)propyl]benzene isocyanate in dioxane was prepared by heating a mixture of 4-[3-(2-benzyloxyphenyl)propyl]benzoic acid (2.0 g), Et3N (1.61 ml) and DPPA (1.31 ml) in dioxane (20 ml) for 3 hours.

reactant | 4-[3-(2-benzyloxyphenyl)propyl]benzoic acid | 2.0 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)O)C=C1 | C23H22O3
reactant | Et3N | 1.61 ml | CCN(CC)CC | C6H15N
reactant | DPPA | 1.31 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(2-benzyloxyphenyl)propyl]benzene isocyanate | [N-]=C=O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=CC=C1 | InChI=1S/C22H22O.CNO/c1-3-10-19(11-4-1)14-9-16-21-15-7-8-17-22(21)23-18-20-12-5-2-6-13-20;2-1-3/h1-8,10-13,15,17H,9,14,16,18H2;/q;-1
